US09034866B2
2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid (0.06 g) was reacted with 1-methylpyrrolidin-3-amine similar to as described in Example 2 to afford 15.9 mg of (±)9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(1-methylpyrrolidin-3-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide following reverse phase hplc purification. MS (Q1) 456 (M)+. 1H NMR (400 MHz, DMSO) δ 11.49 (d, J=6.5 Hz, 1H), 8.59 (d, J=8.5 Hz, 1H), 8.35 (s, 1H), 7.84 (s, 1H), 7.01 (d, J=10.6 Hz, 1H), 5.48 (s, 1H), 5.07-4.91 (m, 2H), 4.62-4.45 (m, 2H), 4.42-4.24 (m, 1H), 2.75-2.67 (m, 1H), 2.64-2.55 (m, 1H), 2.43-2.34 (m, 2H), 2.24-2.14 (m, 1H), 1.68-1.56 (m, 1H), 1.50 (s, 6H).

reactant | 2-Carbamoyl-9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-3-carboxylic acid | 0.06 g | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C(=C3)F)C#CC(C)(C)O)C1C(=O)O | C18H16FN3O5
reactant | 1-methylpyrrolidin-3-amine | CN1CC(CC1)N | C5H12N2
product | (±)9-fluoro-10-(3-hydroxy-3-methyl-but-1-ynyl)-N3-(1-methylpyrrolidin-3-yl)-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 15.9 mg | FC1=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC3CN(CC3)C)C=C1C#CC(C)(C)O | C23H26FN5O4
